US05681959
1H-Pyrrolo [3,2-c]pyridine (5-Azaindole)
4-tert-Butoxycarbonylamino-3-methylpyridine A solution of 4-tert-butoxycarbonylaminopyridine (10.0 g, 51.5 mmol) in tetrahydrofuran (150 ml) was cooled to -30° C. and n-butyllithium (45.3 ml, 2.5M in hexane, 113.3 mmol) was added at such a rate as to keep the temperature below -20° C. The mixture was stirred at 0° C. for 3 hours, the slurry cooled to -70° C. and a solution of methyl iodide (8.77 g, 61.8 mmol) in tetrahydrofuran (25 ml) added. The mixture was warmed to 20° C. and stirred for 1 hour. The mixture was quenched with water (100 ml) and extracted with ethyl acetate (2×100 ml). The combined ethyl acetate fractions were washed with saturated brine (100 ml), dried (Na2SO4), filtered and concentrated in vacuo. The crude product was chromatographed on silica gel (95% methylene chloride/5% methanol) and then swished in hot hexane to afford the title compound as a pale yellow solid; yield: 5.75 g (54%). mp 124°-126° C.; Analysis Found: C, 63.35; H, 7.72; N, 13.44. C11H16N2O2 : requires C, 63.44; H, 7.74; N, 13.45%; 1H NMR (CD2Cl1 /TMS) δ1.52 (9H, s), 2.22 (3H, s), 6.92 (1H, br.s), 7.97 (1H, d, J=5.6 Hz), 8.28 (1H, s), 8.33 (1H, d, J=5.6 Hz).

reactant | 4-tert-Butoxycarbonylamino-3-methylpyridine | C(C)(C)(C)OC(=O)NC1=C(C=NC=C1)C | C11H16N2O2
reactant | 4-tert-butoxycarbonylaminopyridine | 51.5 mmol, 10.0 g | C(C)(C)(C)OC(=O)NC1=CC=NC=C1 | C10H14N2O2
reactant | n-butyllithium | 113.3 mmol, 2.5M, 45.3 ml | C(CCC)[Li]
reactant | methyl iodide | 61.8 mmol, 8.77 g | CI | CH3I
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1H-Pyrrolo [3,2-c]pyridine | N1C=CC=2C=NC=CC21 | C7H6N2
